US05889026
1-(3-Hydroxy-propyl)-4-(4-methyl-benzyl)-piperidin-4-ol
The title compound, MS: m/e=263.3 (M+) was prepared from 4-(4-methyl-benzyl)-piperidin-4-ol and 3-bromo-1-propanol.

reactant | 4-(4-methyl-benzyl)-piperidin-4-ol | CC1=CC=C(CC2(CCNCC2)O)C=C1 | C13H19NO
reactant | 3-bromo-1-propanol | BrCCCO | C3H7BrO
product | 1-(3-Hydroxy-propyl)-4-(4-methyl-benzyl)-piperidin-4-ol | OCCCN1CCC(CC1)(O)CC1=CC=C(C=C1)C | C16H25NO2
